US06759429B2
To a solution of the compound of Example 163-2 (300 mg) in acetone (30 mL) were added water (3 mL) and p-toluenesulfonic acid monohydrate (66 mg), and the mixture was stirred at 56° C. for 1.5 hour. The solvent was evaporated under reduced pressure, and thereto was added a NaHCO3 solution, and the mixture was extracted twice with ethyl acetate-toluene, and dried over MgSO4. The solvent was evaporated under reduced pressure to give crude (4-formylphenyl)(1H-pyrrol-2-yl)methanone (258 mg). To a solution of this compound (170 mg) in 1,2-dichloroethane (20 mL) were added successively 4-piperidone monohydrate hydrochloride (263 mg), triethylamine (261 mg) and NaBH(OAc)3 (546 mg), and the mixture was stirred at room temperature for 71 hours. To the mixture was added NaHCO3, and the mixture was extracted twice with ethyl acetate, and dried over MgSO4. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (hexane/ethyl acetate=2/1→1/1) to give 1-[4-(1H-pyrrol-2-ylcarbonyl)benzyl]piperidin-4-one (80.1 mg, 33%).

reactant | p-toluenesulfonic acid monohydrate | 66 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-piperidone monohydrate hydrochloride | 263 mg | Cl.O.N1CCC(CC1)=O
reactant | NaBH(OAc)3 | 546 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | triethylamine | 261 mg | C(C)N(CC)CC | C6H15N
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | water | 3 mL | O | H2O
product | 1-[4-(1H-pyrrol-2-ylcarbonyl)benzyl]piperidin-4-one | 80.1 mg, 33% | N1C(=CC=C1)C(=O)C1=CC=C(CN2CCC(CC2)=O)C=C1 | C17H18N2O2
